* 140UD6A operational amplifier "macromodel" subcircuit
* created using Parts release 5.1 on 12/17/92 at 02:27
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
                 | | | | | balance
*                | | | | | |  |
.subckt 140UD6A  1 2 3 4 5 0  0
*
  c1   11 12 8.660E-12
  c2    6  7 20.00E-12
  cee  10 99 800.0E-15
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 42.44E6 -40E6 40E6 40E6 -40E6
  ga    6  0 11 12 125.7E-6
  gcm   0  6 10 99 12.57E-9
  iee  10  4 dc 52.06E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 7.958E3
  rc2   3 12 7.958E3
  re1  13 10 6.955E3
  re2  14 10 6.955E3
  ree  10 99 3.842E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 10.92E3
  vb    9  0 dc 0
  vc    3 53 dc 4
  ve   54  4 dc 4
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=866.7)
.ends
*----------------------------------------------------------
* 140UD17A operational amplifier "macromodel" subcircuit
* created using Parts release 5.1 on 12/17/92 at 02:06
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
                 | | | | | balance
*                | | | | | | |
.subckt 140UD17A 1 2 3 4 5 0 0
*
  c1   11 12 8.660E-12
  c2    6  7 67.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 114.0E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 105.2E-6
  gcm   0  6 10 99 350.8E-12
  iee  10  4 dc 6.704E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 9.502E3
  rc2   3 12 9.502E3
  re1  13 10 1.780E3
  re2  14 10 1.780E3
  ree  10 99 29.83E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 7.513E3
  vb    9  0 dc 0
  vc    3 53 dc 3
  ve   54  4 dc 3
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=1.675E3)
.ends
*--------------------------------------------------------
* 140UD17B operational amplifier "macromodel" subcircuit
* created using Parts release 5.1 on 12/17/92 at 02:08
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
                 | | | | | balance
*                | | | | | | |
.subckt 140UD17B 1 2 3 4 5 0 0
*
  c1   11 12 8.660E-12
  c2    6  7 67.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 114.0E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 105.2E-6
  gcm   0  6 10 99 350.8E-12
  iee  10  4 dc 6.706E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 9.502E3
  rc2   3 12 9.502E3
  re1  13 10 1.780E3
  re2  14 10 1.780E3
  ree  10 99 29.82E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 7.513E3
  vb    9  0 dc 0
  vc    3 53 dc 3
  ve   54  4 dc 3
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=1.117E3)
.ends
*-----------------------------------------------------
* k153ud6 operational amplifier "macromodel" subcircuit
* created using Parts release 5.1 on 12/17/92 at 02:33
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | / \
.subckt k153ud6  1 2 3 4 5 6 7
*
  c1   11 12 8.660E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 26.53E6 -30E6 30E6 30E6 -30E6
  ga    6  0 11 12 75.40E-6
  gcm   0  6 10 99 7.540E-9
  iee  10  4 dc 10.15E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 13.26E3
  rc2   3 12 13.26E3
  re1  13 10 7.971E3
  re2  14 10 7.971E3
  ree  10 99 19.70E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 10.03E3
  vb    9  0 dc 0
  vc    3 53 dc 5
  ve   54  4 dc 5
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=66.67)
.ends
*---------------------------------------------------------
* 154UD3a operational amplifier "macromodel" subcircuit
* created using Parts release 5.1 on 12/17/92 at 02:30
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |  compensation
*                | | | | | | balance
                 | | | | | | | |
.subckt 154UD3A  1 2 3 4 5 0 0 0
*
  c1   11 12 8.660E-12
  c2    6  7 20pF
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 339.5E3 -30E3 30E3 30E3 -30E3
  ga    6  0 11 12 942.5E-6
  gcm   0  6 10 99 74.80E-9
  iee  10  4 dc 800.5E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 1.061E3
  rc2   3 12 1.061E3
  re1  13 10 995.8
  re2  14 10 995.8
  ree  10 99 249.9E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 4.839E3
  vb    9  0 dc 0
  vc    3 53 dc 5.500
  ve   54  4 dc 5.500
  vlim  7  8 dc 0
  vlp  91  0 dc 10
  vln   0 92 dc 10
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=1.778E3)
.ends
*---------------------------------------------------------
